US07674788B2
6-chloro-7-(4-hydroxypiperidin-1-yl)-2-piperazin-1-yl-4-pyrrolidin-1-yl-pteridine (Example compound 64 from Table 1, prepared according to Scheme 3)
a)+b) 80 mg (0.26 mmol) 4-pyrrolidin-1-yl-2,6,7-trichloro-pteridine are dissolved in 5 ml dioxane and combined with 29 mg (0.29 mmol) 4-hydroxypiperidin and 49 μl (0.37 mmol) diisopropylethylamine. The mixture is stirred for approx. 16 h at 40° C. The reaction mixture is then slowly added dropwise to a solution of 113 mg (1 mmol) piperazine in 15 ml dioxane at a temperature of 80° C. The mixture is stirred for approx. 16 h at 80° C., cooled to ambient temperature and then poured onto ice water. It is extracted with dichloromethane, the organic phase is dried on sodium sulphate and the solvent is eliminated in vacuo. The residue is taken up in some dichloromethane and combined with petroleum ether, the precipitate formed is suction filtered. Yield 58 mg (53% of theoretical).

reactant | 4-pyrrolidin-1-yl-2,6,7-trichloro-pteridine | 0.26 mmol, 80 mg | N1(CCCC1)C1=NC(=NC2=NC(=C(N=C12)Cl)Cl)Cl | C10H8Cl3N5
reactant | 4-hydroxypiperidin | 0.29 mmol, 29 mg | OC1CCNCC1 | C5H11NO
reactant | diisopropylethylamine | 0.37 mmol, 49 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperazine | 1 mmol, 113 mg | N1CCNCC1 | C4H10N2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-7-(4-hydroxypiperidin-1-yl)-2-piperazin-1-yl-4-pyrrolidin-1-yl-pteridine | ClC=1N=C2C(=NC(=NC2=NC1N1CCC(CC1)O)N1CCNCC1)N1CCCC1 | C19H27ClN8O
